US06660744B1
A mixture of 3-(4-amino-3-methoxyphenyl)-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.151 g, 0.356 mmol, 1 equiv), potassium carbonate (0.098 g, 0.711 mmol, 2 equiv), and chloroacetylchloride (0.04 mL, 0.5 mmol, 1.5 equiv) in DMF (1.5 mL) was stirred at ambient temperature for 20 minutes and then aniline (0.32 mL, 3.5 mmol, 10 equiv) was added. The reaction mixture was stirred at ambient temperature for 72 h. The solvent was removed under reduced pressure and the residue was purified by preparative RP-HPLC (Rainin C18, 8 μm, 300 Å, 25 cm; 10%-60% acetonitrile-0.1M ammonium acetate over 20 min, 21 mL/min). The acetonitrile was removed in vacuo and the aqueous mixture was washed with saturated aqueous sodium bicarbonate (10 mL) and then extracted with CH2Cl2 (25 mL). The organic extract was dried over MgSO4, filtered, and concentrated to give cis-N1-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxyphenyl)-2-anilinoacetamide as a yellow solid (0.010 g, 0.017 mmol): 1H NMR (d6 DMSO, 400 MHz): δ H 9.30 (1H, s), 8.35-8.38 (1H, m), 8.21 (1H, s), 7.21-7.23 (2H, m), 7.12-7.16 (2H, m), 6.64-6.66 (3H, m), 6.31-6.34 (1H, m), 4.77-4.81 (1H, m), 3.90 (2H, d, J=6.0 Hz), 3.82 (3H, s), 2.21-2.51 (11H, m), 2.16 (3H, s), 2.06-2.08 (2H, m), 1.55-1.70 (4H, m); RP-HPLC (Delta Pak C18, 5 μm, 300 Å, 15 cm; 5%-85% acetonitrile-0.1M ammonium acetate over 20 min, 1 mL/min) Rt 12.37 min. MS: MH+ 570.

reactant | 3-(4-amino-3-methoxyphenyl)-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.356 mmol, 0.151 g, 1 equiv | NC1=C(C=C(C=C1)C1=NN(C2=NC=NC(=C21)N)C2CCC(CC2)N2CCN(CC2)C)OC | C23H32N8O
reactant | potassium carbonate | 0.711 mmol, 0.098 g, 2 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | chloroacetylchloride | 0.5 mmol, 0.04 mL, 1.5 equiv | ClCC(=O)Cl | C2H2Cl2O
reactant | aniline | 3.5 mmol, 0.32 mL, 10 equiv | NC1=CC=CC=C1 | C6H7N
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | cis-N1-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxyphenyl)-2-anilinoacetamide | 0.017 mmol, 0.010 g | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(CNC2=CC=CC=C2)=O)OC)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | C31H39N9O2
